US05322871
Preparation of bis(2,4-di-tert-butyl-6-methylphenyl) phosphorochloridite
890.3 g (4 mol) of 2,4-di-tert-butyl-6-methylphenol, 4.2 g of dimethylformamide and 170.0 g of xylene are introduced into a four-neck flask which has been flushed with nitrogen and is fitted with a thermometer, dropping funnel, reflux condenser and distillation attachment. 274.9 g (2 mol) of phosphorus trichloride are added dropwise with stirring over the course of 1.5 hours at a temperature of 50° C. The reaction mixture is warmed to 130° C. and refluxed at this temperature for 1 hour. The reaction mixture is kept at 120° C. for 1 hour under a vacuum of 0.15 bar. Xylene is subsequently removed by distillation under a greater vacuum. After the vacuum has been broken using nitrogen, 959.5 g (1.9 mol) of the title compound are obtained as supercooled, yellow-orange, clear melt.

reactant | 2,4-di-tert-butyl-6-methylphenol | 4 mol, 890.3 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C)O | C15H24O
reactant | phosphorus trichloride | 2 mol, 274.9 g | P(Cl)(Cl)Cl | Cl3P
catalyst | dimethylformamide | 4.2 g | CN(C=O)C | C3H7NO
solvent | xylene | 170.0 g | C=1(C(=CC=CC1)C)C | C8H10
product | bis(2,4-di-tert-butyl-6-methylphenyl) phosphorochloridite | 1.9 mol, 959.5 g | P(OC1=C(C=C(C=C1C)C(C)(C)C)C(C)(C)C)(OC1=C(C=C(C=C1C)C(C)(C)C)C(C)(C)C)Cl | C30H46ClO2P
